US08071587B2
(a). (S)-2-Formylamino-3,3-dimethyl-butyric acid
A solution of acetic anhydride (18 ml) in dichloromethane (15 ml) was added drop wise to a cooled (0° C.) solution of L-tert-leucine (5 g) in formic acid (50 ml). The reaction mixture was stirred at 0° C. for 1 h and at room temperature for 3 h. Water (25 ml) was added. The mixture was stirred for another 30 min, concentrated in vacuo and co-evaporated twice with toluene. The remaining residue was triturated with diethyl ether. The solids were collected and dried in vacuo (50° C.).

reactant | acetic anhydride | 18 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | L-tert-leucine | 5 g | N[C@@H](C(C)(C)C)C(=O)O | C6H13NO2
reactant | Water | 25 ml | O | H2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | formic acid | 50 ml | C(=O)O | CH2O2
product | (S)-2-Formylamino-3,3-dimethyl-butyric acid | C(=O)N[C@H](C(=O)O)C(C)(C)C | C7H13NO3
